US06133264
9 Grams of 5-acetoxy-8-allyloxy-3,4-dihydro-2(1H)-quinolinone was dissolved in 100 ml of DMF, 1.51 g of 60%-sodium hydride was added gradually in limited amounts to this solution, this reaction mixture was stirred at room temperature until generation of hydrogen gas ceased. Under stirring and ice-cooling conditions, 100 ml of water was added to this reaction mixture, extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, the dried extract was concentrated under reduced pressure. The oily product thus obtained was purified by a silica gel column chromatography, there was obtained 7 g of 5-acetoxy-8-allyloxy-3,4-dihydro-1-methyl-2(1H)-quinolinone as pale yellow oily product.

reactant | 5-acetoxy-8-allyloxy-3,4-dihydro-2(1H)-quinolinone | C(C)(=O)OC1=C2CCC(NC2=C(C=C1)OCC=C)=O | C14H15NO4
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | water | 100 ml | O | H2O
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-acetoxy-8-allyloxy-3,4-dihydro-1-methyl-2(1H)-quinolinone | 7 g | C(C)(=O)OC1=C2CCC(N(C2=C(C=C1)OCC=C)C)=O | C15H17NO4
